US05436359
4-tert-Butyldiphenylsilyloxy-2,3-dimethoxy-5-methyl-6-(10-trityloxydecyl)phenol
2,3-Dimethoxy-5-methyl-6-(10-trityloxydecyl)hydroquinone (80.4 g) was dissolved in dichloromethane (250 ml). tert-Butylchlorodiphenylsilane (26 ml) and imidazole (6.8 g) were added, and the mixture was stirred at 40° C. for 21 hours. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to column chromatography on silica gel and eluted with hexane/ethyl acetate (9:1) to obtain the desired compound (40 g).

reactant | 2,3-Dimethoxy-5-methyl-6-(10-trityloxydecyl)hydroquinone | 80.4 g | COC1=C(O)C(=C(C(=C1OC)O)C)CCCCCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H46O5
reactant | tert-Butylchlorodiphenylsilane | 26 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-tert-Butyldiphenylsilyloxy-2,3-dimethoxy-5-methyl-6-(10-trityloxydecyl)phenol | 40 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C(=C(C(=C1C)CCCCCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)OC)OC | C54H64O5Si
